US08669392B2
10 ml of 95% concentrated sulfuric acid was slowly added dropwise into 5 ml of water, and the mixture was cooled to room temperature, to obtain a sulfuric acid solution. The prepared sulfuric acid solution was added into a three-necked flask containing 0.22 g of diethyl 2,3-diisopropyl-2-cyanosuccinate, and the reaction mixture was stirred at an oil-bath temperature of 160° C. for 16 h. Upon the completion of the reaction, the reaction mixture was cooled to room temperature, diluted with 30 ml of water, and cooled to room temperature again. The reaction mixture was extracted with anhydrous diethyl ether, and the solvent was removed from the extract liquor, to afford a mixture of white solids and oily liquid. This mixture was dissolved in 10 ml of 10% aqueous KOH solution, and the resultant solution was stirred at 50° C. for 45 min. The reaction mixture was extracted with diethyl ether, and the organic phase was discarded. The aqueous phase was acidified with concentrated hydrochloric acid, whereby white precipitates formed. The precipitates were filtered and dried, to afford the product, 2,3-diisopropyl succinic acid (yield: 60%).

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | diethyl 2,3-diisopropyl-2-cyanosuccinate | 0.22 g | C(C)(C)C(C(=O)OCC)(C(C(=O)OCC)C(C)C)C#N | C15H25NO4
solvent | water | 30 ml | O | H2O
solvent | KOH | 10 ml | [OH-].[K+]
product | 2,3-diisopropyl succinic acid | yield: 60% | C(C)(C)C(C(=O)O)C(C(=O)O)C(C)C | C10H18O4
